US05910506
In 50 ml of methylene chloride was added 15.0 g (35.8 mmol)of glycine ethyl ester hydrochloric acid, followed by addition of 9.2 g (75.3 mmol)of 4-dimethylaminopyridine under ice-cooling. After stirring for 10 minutes, 6.5 ml (39.4 mmol)of benzyloxyacetylchloride was added dropwise under ice-cooling over 30 minutes. The temperature was raised up to room temperature, and the mixture was stirred for 12 hours. To the mixture, 20 ml of methylene chloride was added, and filtered. To the filtrate, 5% hydrochloric acid was added, and the mixture was extracted with methylene chloride. The extract was washed with saturated brine, dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated and 9.0 g of N-benzyloxyacetylglycine ethyl ester was obtained (yield 100%).

reactant | glycine ethyl ester hydrochloric acid | 35.8 mmol, 15.0 g | Cl.C(C)OC(CN)=O
reactant | benzyloxyacetylchloride | 39.4 mmol, 6.5 ml | C(C1=CC=CC=C1)OCC(=O)Cl | C9H9ClO2
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 75.3 mmol, 9.2 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
product | N-benzyloxyacetylglycine ethyl ester | 9.0 g, yield 100% | C(C)OC(CNC(COCC1=CC=CC=C1)=O)=O | C13H17NO4
